US08119806B2
(3R)-3-(4-Chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl 4-(nitrooxy)butanoate
N-Methylmorpholine (90 μL, 0.82 mmol) was added to a stirred solution of (R)-(−)-cicletanine (48 mg, 0.18 mmol), 4-(nitrooxy)butanoic acid (27 mg, 0.18 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (42 mg, 0.22 mmol), and 4-dimethylaminopyridine (9 mg, 0.07 mmol) in dichloromethane (1.8 mL). The solution was stirred overnight at room temperature. The mixture was concentrated under reduced pressure. The residue was purified by HPLC reverse phase (C-18) cluting with acetonitrile/water with 0.05% TFA to afford the title compound as a colorless oil. LC-MS: m/z 392.9 (M+H).

reactant | N-Methylmorpholine | 0.82 mmol, 90 μL | CN1CCOCC1 | C5H11NO
reactant | (R)-(−)-cicletanine | 0.18 mmol, 48 mg | CC1=NC=C2C(OCC2=C1O)C3=CC=C(C=C3)Cl | C14H12ClNO2
reactant | 4-(nitrooxy)butanoic acid | 0.18 mmol, 27 mg | [N+](=O)([O-])OCCCC(=O)O | C4H7NO5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.22 mmol, 42 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 0.07 mmol, 9 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1.8 mL | ClCCl | CH2Cl2
product | (3R)-3-(4-Chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl 4-(nitrooxy)butanoate | [N+](=O)([O-])OCCCC(=O)OC=1C2=C(C=NC1C)[C@H](OC2)C2=CC=C(C=C2)Cl | C18H17ClN2O6
